US09034880B2
Preparation of 5-(2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)ethyl)-1-cyclopropylpyridin-2(1H)-one (Compound 413)
The title compound is prepared from a mixture of 8-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole, 1-cyclopropyl-5-vinylpyridin-2(1H)-one and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 8-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13ClN2
reactant | 1-cyclopropyl-5-vinylpyridin-2(1H)-one | C1(CC1)N1C(C=CC(=C1)C=C)=O | C10H11NO
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 5-(2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)ethyl)-1-cyclopropylpyridin-2(1H)-one | ClC1=CC=2C3=C(N(C2C=C1)CCC=1C=CC(N(C1)C1CC1)=O)CCN(C3)C | C22H24ClN3O
